US04107169
EXAMPLE 22 -- Preparation of 2,6-diphenylbenzo-(1,2-d:4,5-d')-bisoxazole (XXII)
In the apparatus described in Example 13, 5.9 g of 2,5-diaminohydroquinone hydrochloride (28 m moles) were placed and at 180° C, 7.6 g of benzotrichloride (39 m moles) were added drop by drop. After 3 hours of heating at 190° C, the mixture was cooled and ground with mortar and pestle. The reaction product was extracted twice with 150 ml of xylene and passed through an aluminum oxide column heated at 125° C. The product was 4.5 g of crude XXII (74% of the theory). After two recrystallizations from xylene the melting point was 319°-323° C.

reactant | 2,5-diaminohydroquinone hydrochloride | 5.9 g | Cl.NC1=C(O)C=C(C(=C1)O)N
reactant | benzotrichloride | 7.6 g | C1(=CC=CC=C1)C(Cl)(Cl)Cl | C7H5Cl3
product | 2,6-diphenylbenzo-(1,2-d:4,5-d')-bisoxazole | C1(=CC=CC=C1)C=1OC2=C(N1)C=C1C(N=C(O1)C1=CC=CC=C1)=C2 | C20H12N2O2
